US07951824B2
Step 3: 4-Bromo-3,6-dimethyl-pyridine-2-carboxylic acid
The title compound, was prepared by treatment of 3,6-Dimethyl-4-nitro-pyridine-2-carboxylic acid with 49% hydrobrornic acid at 101° C. in accordance with the general method of example 1, step 3 to yield the title compound as an amorphous yellow solid, which is directly used in the next step without further purification.

reactant | 3,6-Dimethyl-4-nitro-pyridine-2-carboxylic acid | CC=1C(=NC(=CC1[N+](=O)[O-])C)C(=O)O | C8H8N2O4
reactant | hydrobrornic acid | Br | BrH
product | 4-Bromo-3,6-dimethyl-pyridine-2-carboxylic acid | BrC1=C(C(=NC(=C1)C)C(=O)O)C | C8H8BrNO2
